US04678500
To a suspension of 100 g of 2-methyl-3-nitrobenzoic acid, methyl ester and 100 g of N-bromosuccinimide in 1000 ml carbon tetrachloride was added 3 g of benzoyl peroxide and the mixture was stirred at reflux temperature for about 24 hours. Additional benzoyl peroxide was then added and refluxing was resumed for another 24 hours. The reaction mixture was cooled, filtered, and the filtrate concentrated in vacuo to afford an oil which crystallized upon cooling. This crude product was dissolved in diethyl ether and the organic layer was washed with saturated aqueous sodium sulfite (one 500-ml portion), water (two 500-ml portions), 2.5% aqueous sodium hydroxide solution (one 500-ml portion), water and brine. Drying and evaporation of the organic layer in vacuo gave a yellow oil which crystallized on standing. Recrystallization from 350 ml n-butyl chloride/cyclohexane (2:1) gave 74 g of 2-(bromomethyl)-3-nitrobenzoic acid, methyl ester, m.p. 67°-70°.

reactant | 2-methyl-3-nitrobenzoic acid, methyl ester | 100 g | CC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H9NO4
reactant | N-bromosuccinimide | 100 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 1000 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-(bromomethyl)-3-nitrobenzoic acid, methyl ester | 74 g | BrCC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H8BrNO4
